US06376672B1
In analogy to the procedure described in example 1) (l) the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-(2-methoxy-ethoxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was deprotected with HCl in methanol to yield the (R)-1-[(3S,4R,5R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-3-yloxy]-3-(2-methoxy-ethoxy)-propan-2-ol as colorless oil; MS: 690.3 (M+H)+.

reactant | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-(2-methoxy-ethoxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OC[C@@H](COCCOC)O | C45H59NO11
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-1-[(3S,4R,5R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-3-yloxy]-3-(2-methoxy-ethoxy)-propan-2-ol | COC1=C(COCCCOC2=CC=C(C=C2)[C@H]2[C@@H](CNC[C@@H]2OCC2=CC3=CC=CC=C3C(=C2)OC)OC[C@@H](COCCOC)O)C=CC=C1 | C40H51NO9
